US08623937B2
The procedure is more specifically as follows. Octadecylmethyldichlorosilane [CAS No. 5157-75-5] (1500 g, i.e. 4.08 mol) in solution in anhydrous diethyl ether (250 mL) is added dropwise (90 min) to a mixture of water (345 g), triethylamine (1138 g) and diethyl ether (29 L) kept at a temperature between −2° C. and 6° C. The mixture is then stirred for 2 h at a temperature between 0° C. and 5° C. The precipitate formed is filtered, washed successively with 6 L of demineralized water, then 3 times with 4 L of demineralized water. The solid obtained is dried in the open air until it reaches a constant mass. Octadecylmethyldihydroxysilane or octadecylmethylsilanediol (1226 g) is thus obtained in the form of a white solid having a melting point of 87° C. with a yield of 91%, NMR analysis furthermore confirming the structure of the product obtained with a molar purity of 95%.

reactant | Octadecylmethyldichlorosilane | C(CCCCCCCCCCCCCCCCC)[Si](Cl)(Cl)C | C19H40Cl2Si
reactant | water | 345 g | O | H2O
reactant | triethylamine | 1138 g | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | 250 mL | C(C)OCC | C4H10O
reactant | diethyl ether | 29 L | C(C)OCC | C4H10O
product | octadecylmethylsilanediol | 1226 g | C(CCCCCCCCCCCCCCCCC)[Si](O)(O)C | C19H42O2Si
